US08492378B2
N-methyl-5-[1-[3-(trifluoromethoxy)phenyl]-1H-benzimidazol-6-yl]-1,3,4-oxadiazol-2-amine
In the same manner as in Example 433 and using 6-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-1-[3-(trifluoromethoxy)phenyl]-1H-benzimidazole instead of 6-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazole, using 2M methylamine-tetrahydrofuran solution instead of sodium methoxide, and using 1-methyl-2-pyrrolidone instead of N,N-dimethylformamide, the title compound (yield 79%) was obtained as colorless crystals.

reactant | 6-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-1-[3-(trifluoromethoxy)phenyl]-1H-benzimidazole | CS(=O)(=O)C1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C17H11F3N4O4S
reactant | methylamine tetrahydrofuran | 2M | CN.O1CCCC1
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N-methyl-5-[1-[3-(trifluoromethoxy)phenyl]-1H-benzimidazol-6-yl]-1,3,4-oxadiazol-2-amine | yield 79% | CNC=1OC(=NN1)C=1C=CC2=C(N(C=N2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C17H12F3N5O2
